US04112095
Preparation of 3-methyl-6-(o-fluorophenyl)-1,2,4-triazolo-[4,3-b]pyridazine
As in Example 36, a mixture of 2.5 g. of 3-chloro-6-(o-fluorophenyl)-pyridazine and 1.76 g. of acetylhydrazine in 50 ml. of n-butanol is refluxed for 48 hrs. to give 2.0 g. of product as off-white crystals, m.p. 147°-149° C.

reactant | 3-chloro-6-(o-fluorophenyl)-pyridazine | ClC=1N=NC(=CC1)C1=C(C=CC=C1)F | C10H6ClFN2
reactant | acetylhydrazine | C(C)(=O)NN | C2H6N2O
solvent | n-butanol | C(CCC)O | C4H10O
product | 3-methyl-6-(o-fluorophenyl)-1,2,4-triazolo-[4,3-b]pyridazine | CC1=NN=C2N1N=C(C=C2)C2=C(C=CC=C2)F | C12H9FN4
